US05455273
j) trans-N-neopentyl-4-phenylcyclohexylamine
from 4-phenylcyclohexanone and neopentylamine. Colourless oil.

reactant | 4-phenylcyclohexanone | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
reactant | neopentylamine | C(C(C)(C)C)N | C5H13N
product | trans-N-neopentyl-4-phenylcyclohexylamine | C(C(C)(C)C)N[C@@H]1CC[C@H](CC1)C1=CC=CC=C1 | C17H27N
